US07279580B2
3-Bromo-7-chloro-8-fluoroimidazo[1,2-α]pyridine (45 mg, 0.18 mmol) was coupled with 4,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile (49 mg, 0.19 mmol), as described in Example 1, to afford 5′-(7-chloro-8-fluoroimidazo[1,2-α]pyridin-3-yl)-4,2′-difluorobiphenyl-2-carbonitrile as a white amorphous solid (49 mg, 71%): δH (360 MHz, CDCl3) 6.86 (1H, dd, J 7 and 7), 7.35-7.44 (2H, m), 7.58-7.64 (4H, m), 7.71 (1H, s), 8.20 (1H, d, J 7); m/z (ES+) 384 (100%, [MH]+).

reactant | 3-Bromo-7-chloro-8-fluoroimidazo[1,2-α]pyridine | 0.18 mmol, 45 mg | BrC1=CN=C2N1C=CC(=C2F)Cl | C7H3BrClFN2
reactant | 4,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile | 0.19 mmol, 49 mg | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)C#N | C18H16BF2NO2
product | 5′-(7-chloro-8-fluoroimidazo[1,2-α]pyridin-3-yl)-4,2′-difluorobiphenyl-2-carbonitrile | 49 mg, 71% | ClC1=C(C=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC(=CC2)F)C#N)F)F | C20H9ClF3N3
